US05574064
Synthesis of 1-methyl-2-(4-pyridyloxy)ethylamine (Intermediate Compound No. 7)
6.2 g of 2-amino-1-propanol was added dropwise to a stirred mixture of 4.0 g of 60% sodium hydride and 50 mL of N,N-dimethylformamide at 5° C.-10° C. After the reaction mixture was stirred for 30 minutes, 12.5 g of 4-chloropyridine hydrochloride in limited amounts was added to the reaction mixture. The mixture was stirred for 20 hours at room temperature. After completion of the reaction, the solids were filtered off. The solvent in the filtrate was removed under reduced pressure. The residue was purified by column chromatography on silica gel to obtain 3.8 g of the desired product (yield: 30%). Refractive index: 1.5469.

reactant | 2-amino-1-propanol | 6.2 g | NC(CO)C | C3H9NO
reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | 4-chloropyridine hydrochloride | 12.5 g | Cl.ClC1=CC=NC=C1
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-methyl-2-(4-pyridyloxy)ethylamine | 3.8 g, yield: 30% | CC(COC1=CC=NC=C1)N | C8H12N2O
